US09353219B1
Preparation of (E)-4,4′-(ethene-1,2-diyl)bis(2-methoxyphenol) (5).
A flask was charged with 2.35 g of Mg (96.7 mmol) and anhydrous THF (100 mL). The mixture was chilled to −78° C. and then TiCl4 (10.6 mL, 96.5 mmol) was added dropwise through an addition funnel. The flask was allowed to slowly warm up to room temperature and the mixture transitioned to a green slurry and finally a black solution. After stirring at room temperature for 30 min a THF (50 mL) solution of vanillin (7.01 g, 46.1 mmol) was added dropwise. The reaction was mildly exothermic and resulted in a dark brown mixture. The mixture was heated at reflux for 16 h and was then cooled to room temperature. The solvent was removed under reduced pressure and the residue treated with 100 mL of 2 M HCl to yield a dark solution with pale brown suspended solid. The mixture was filtered on a medium frit and the isolated solid was washed with water (3×50 mL) and chilled ethanol (3×25 mL 0° C.). The solid was dried in a vacuum oven (˜10 Torr, 45° C.) overnight to yield 2.91 g of pale brown solid (46% yield). The purity of the crude product (>98%) was suitable for later synthetic procedures, but the material can be further purified by dissolution in THF followed by precipitation with hexane. X-ray quality crystals were grown by slow evaporation of a concentrated THF solution. 1H NMR (DMSO-d6): δ 9.07 (s, 2H, Ph-OH), 7.13 (d, 2H, J=2 Hz), 6.94 (s, 2H), 6.93 (dd, 2H, J=8, 2 Hz), 6.73 (d, 2H, J=8 Hz), 3.81 (s, 6H, OMe): 13C NMR (DMSO-d6): δ 147.8, 146.2, 129.2, 125.8, 119.5, 115.6, 99.6, 55.6.

reactant | vanillin | 46.1 mmol, 7.01 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
catalyst | TiCl4 | 96.5 mmol, 10.6 mL | Cl[Ti](Cl)(Cl)Cl
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (E)-4,4′-(ethene-1,2-diyl)bis(2-methoxyphenol) | 2.91 g, 46% yield | C(=C\C1=CC(=C(C=C1)O)OC)/C1=CC(=C(C=C1)O)OC | C16H16O4
